US04803293
N-methyl-N-[2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethyl]-α-aminoacetophenone
N-methyl-2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethanamine hydrochloride (2.73 g) was suspended in tetrahydrofuran (10 ml) containing triethylamine (6 ml) and a solution of α-bromoacetophenone (1.99 g) in tetrahydrofuran (10 ml) was added dropwise. After stirring overnight this solution was treated with saturated sodium carbonate solution, extracted with dichloromethane, the organic phase was dried (magnesium sulphate), filtered and evaporated to give a red oil which was used without further purification.

reactant | N-methyl-2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethanamine hydrochloride | 2.73 g | Cl.CNC(CC1=CC=C(C=C1)OCC(=O)NC)C
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | α-bromoacetophenone | 1.99 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-methyl-N-[2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethyl]-α-aminoacetophenone | CN(CC(=O)C1=CC=CC=C1)C(CC1=CC=C(C=C1)OCC(=O)NC)C | C21H26N2O3
